US07851468B2
4,6-Dichloro-5-[1,3]dioxolan-2-yl-pyrimidine
A mixture of 300 ml benzene and 8.2 ml ethylene glycol was heated to reflux and 100 ml solution was distilled off. To the hot solution was added 4,6-dichloro-5-pyrimidinecarbaldehyde (Bionet, 8.6 g, 48.6 mmol) and p-toluenesulfonic acid monohydrate (Aldrich, 150 mg, 0.8 mmol). The mixture was returned to reflux and water was removed via Dean-Stark trap over 3 h. After cooling, the solvents were removed under vacuum to yield a dry, yellow solid. The solids were slurried in H2O (30 ml)/saturated NaHCO3 solution (30 ml). White solid 107 was filtered off and dried under vacuum (8.8 g, 82%). Compound 107: mp 108-110° C.; MS (ES+ calculated: 221.04; found: 221/223 M+H). 1H NMR (400 MHz, DMSO-d6) δ 8.95 (s, 1H), 6.26 (s, 1H), 4.23 (m, 2H), 4.05 (m, 2H).

reactant | benzene | 300 ml | C1=CC=CC=C1 | C6H6
reactant | 4,6-dichloro-5-pyrimidinecarbaldehyde | 48.6 mmol, 8.6 g | ClC1=NC=NC(=C1C=O)Cl | C5H2Cl2N2O
reactant | p-toluenesulfonic acid monohydrate | 0.8 mmol, 150 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaHCO3 | 30 ml | C(=O)(O)[O-].[Na+]
solvent | H2O | O | H2O
solvent | ethylene glycol | 8.2 ml | C(CO)O | C2H6O2
product | 4,6-Dichloro-5-[1,3]dioxolan-2-yl-pyrimidine | ClC1=NC=NC(=C1C1OCCO1)Cl | C7H6Cl2N2O2
